US04426524
To a stirred solution of 107.0 g (1.0 mol) of m-toluidine and 185 mL of concentrated hydrochloric acid in 50 mL of water at 0° C. ±5° C. was added 75.9 g (1.1 mol) of sodium nitrite in 150 mL of water at such a rat as to maintain the reaction mixture temperature at 0° C. ±5° C. Upon complete addition, the reaction mixture was transferred to a Morton flask equipped with a mechanical stirrer, and 500 g (5.94 mol) of thiophene was added dropwise at 0° C. with stirring. A 1 molar aqueous solution of sodium hydroxide (275 mL) was then added, the reaction mixture temperature being maintained at 0° C. ±5° C. The reaction mixture was allowed to warm to ambient temperature and the resulting two phase mixture was separated. The aqueous phase was extracted with four portions of 300 mL each of toluene. The extracts were combined with the organic phase from above, and the whole was washed with two portions of a saturated aqueous solution of sodium chloride. The organic phase was dried with magnesium sulfate, filtered, and the filtrate concentrated under reduced pressure to give a dark residual oil. The residual oil was distilled under reduced pressure to give 31.4 g of crude product, b.p. 90°-108° C./0.075-0.35 mm. Purification by redistillation at 60° C./0.05 mm using a Kugelrohr distilling system, followed by column chromatography on silica gel using hexane as an eluent, gave 10.0 g of 2-(3-methylphenyl)thiophene.

reactant | m-toluidine | 1.0 mol, 107.0 g | NC1=CC(=CC=C1)C | C7H9N
reactant | hydrochloric acid | 185 mL | Cl | ClH
reactant | sodium nitrite | 1.1 mol, 75.9 g | N(=O)[O-].[Na+]
reactant | thiophene | 5.94 mol, 500 g | S1C=CC=C1 | C4H4S
reactant | sodium hydroxide | 275 mL | [OH-].[Na+]
solvent | water | 50 mL | O | H2O
solvent | water | 150 mL | O | H2O
product | 2-(3-methylphenyl)thiophene | 10.0 g | CC=1C=C(C=CC1)C=1SC=CC1 | C11H10S
